US05089514
C. 2-(5-Methyl-2-phenyl-4-oxazolyl)methyl-5-benzofurancarboxaldehyde
To a slurry of cuprous oxide (12 g, 84 mmol) in pyridine (150 ml) were added a solution of 5-methyl-2-phenyl-4-(2-propynyl)oxazole in pyridine (150 ml) followed by a solution of 4-hydroxy-3-iodobenzaldehyde (35 g, 0.14 mol) in pyridine (100 ml). Bis(triphenyl-phosphine)palladium (II) chloride (0.50 g, 0.7 mmol) was then added as a solid and the mixture was heated to reflux overnight. The mixture was cooled and concentrated. The residue was taken up in ethyl acetate (250 ml +3×50 ml). The ethyl acetate solution was concentrated and the residue was extracted with hot cyclohexane. The hot solution was filtered and cooled and the solid was collected (29 g).

reactant | 5-methyl-2-phenyl-4-(2-propynyl)oxazole | CC1=C(N=C(O1)C1=CC=CC=C1)CC#C | C13H11NO
reactant | 4-hydroxy-3-iodobenzaldehyde | 0.14 mol, 35 g | OC1=C(C=C(C=O)C=C1)I | C7H5IO2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
catalyst | Bis(triphenyl-phosphine)palladium (II) chloride | 0.7 mmol, 0.50 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(5-Methyl-2-phenyl-4-oxazolyl)methyl-5-benzofurancarboxaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)C=O | C20H15NO3
